US05686469
1-[2-(S)-[(1-Oxo-2-propylpentyl)amino]-4-methylpentyl]-L-proline 4-Phenylbutylamide
Using the procedure described in Example 7, treatment of 1-[2-(S)-amino-4-methylpentyl]-L-proline 4-phenylbutylamide (20 mg) with di-n-propylacetyl chloride(14 uL) provided 16 mg (60%) of the title compound. The 1H NMR and Mass spectrum analysis of this compound was consistent with the structure.

reactant | 1-[2-(S)-amino-4-methylpentyl]-L-proline 4-phenylbutylamide | 20 mg | C1(=CC=CC=C1)CCCCNC([C@H]1N(CCC1)C[C@H](CC(C)C)N)=O | C21H35N3O
reactant | di-n-propylacetyl chloride | 14 uL | C(CC)C(C(=O)Cl)CCC | C8H15ClO
product | 1-[2-(S)-[(1-Oxo-2-propylpentyl)amino]-4-methylpentyl]-L-proline 4-Phenylbutylamide | 16 mg, 60% | C1(=CC=CC=C1)CCCCNC([C@H]1N(CCC1)C[C@H](CC(C)C)NC(C(CCC)CCC)=O)=O | C29H49N3O2
